US05703110
2-Propylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid
A solution of ethyl 2-propylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate (0.25 g) in methanol (5 ml) containing 1N-NaOH (1.5 ml) was heated under reflux for 2 hours. After removal of the solvent, the aqueous residue was adjusted to about pH 3-4 with 1N-HCl to give crystals. The crystals were collected by filtration. Recrystallization from ethyl acetate-hexane gave colorless crystals (0.21 g, 91%), m.p. 222°-223° C. (decomp.).

reactant | ethyl 2-propylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 0.25 g | C(CC)SC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C27H26N6O2S
reactant | NaOH | 1.5 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 2-Propylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | 0.21 g, 91% | C(CC)SC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)O | C25H22N6O2S
